US20010000513A1
A stirred mixture of 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid (2.72 g, 0.0100 mol), hydroxylamine hydrochloride (0.848 g, 0.0122 mol) and sodium carbonate (1.304 g, 0.0123 mol) in absolute ethanol (60 mL) was refluxed for 22 hours and allowed to cool. The solids were filtered, washed with additional ethanol, and allowed to air dry overnight. The solids were dissolved in methanol-water, and the solution acidified with 1.0 M hydrochloric acid (10 mL, 0.010 mol HCl). The mixture was concentrated to approximately 30 mL on a rotary evaporator, and the resulting precipitate filtered and dried in vacuo to give 2.66 g of 4-(4′-fluoro-biphenyl-4-yl)4-hydroxyimino-butyric acid as a pale yellow solid; mp 152-153° C.

reactant | 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 0.0100 mol, 2.72 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | hydroxylamine hydrochloride | 0.0122 mol, 0.848 g | Cl.NO
reactant | sodium carbonate | 0.0123 mol, 1.304 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 0.010 mol, 1.0 M, 10 mL | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(4′-fluoro-biphenyl-4-yl)4-hydroxyimino-butyric acid | 2.66 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H14FNO3
